US04479932
Preparation of Testosterone nicotinate (compound 31)
Thionyl chloride (2 ml) was added to 0.7 g (5.7 mmol) of nicotinic acid and the mixture was refluxed for 3 hrs. Excess thionyl chloride was distilled under vacuum. To the cold residue 10 ml of dry pyridine was added followed with 1.44 g (5.0 mmol) of testosterone. The mixture was heated while stirring over a boiling water bath for 3 hrs. Pyridine was distilled under vacuum and 5 ml of methanol was added to the oily residue. The mixture was cooled and the solid crystallized out was filtered and recrystallized from methanol/acetone mixture. Yield, 1.4 g (71%), m.p. 187°-188°.

reactant | Thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | nicotinic acid | 5.7 mmol, 0.7 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | testosterone | 5.0 mmol, 1.44 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
product | Testosterone nicotinate | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2OC(=O)C4=CN=CC=C4)CCC5=CC(=O)CC[C@]35C | C25H31NO3
